US04816479
A mixture of 2.6 g of 4-chloro-8-fluoro-3-hydroxy-9-oxo-9H-xanthene, 2.8 g of postassium carbonate, 3.3. g of ethyl bromoacetate and 40 ml of N,N-dimethylformamide (DMF) was stirred at 60°-70° C. for 4 hours. After cooling the mixture, water was added thereto and the resulting crystal was recovered by filtration, washed with water and dried. Recrystallization from ethanol gave 3.4 g of ethyl 4-chloro-8-fluoro-9-oxo-9H-xanthene-3-yloxyacetate. A mixture of this ester (3.3 g), sodium hydroxide (1.9 g) and water (100 ml) was refluxed for 30 minutes. After cooling, the mixture was rendered acidic with concentrated hydrochloric acid and the resulting crystal was recovered by filtration and dried. Recrystallization from DMF gave 2.5 g of 4-chloro-8-fluoro-9-oxo-9H-xanthene-3-yloxyacetic acid. m.p. 300° C.

reactant | 4-chloro-8-fluoro-3-hydroxy-9-oxo-9H-xanthene | 2.6 g | ClC1=C(C=CC=2C(C3=C(C=CC=C3OC12)F)=O)O | C13H6ClFO3
reactant | carbonate | 2.8 g | C([O-])([O-])=O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-chloro-8-fluoro-9-oxo-9H-xanthene-3-yloxyacetate | 3.4 g | ClC1=C(C=CC=2C(C3=C(C=CC=C3OC12)F)=O)OCC(=O)OCC | C17H12ClFO5
